US04435403
78 mg of 6-(3-hydroxy-1-propinyl)-beta-carboline-3-carboxylic-acid-ethylester in 2 ml of thionyl chloride is stirred for 3 h at room temperature. After evaporating till dry, the mixture is heated in ethanol and evacuated. By recrystallization from acetic-acid/cyclohexane, 40 mg of 6-(3-chloro-1-propinyl)-beta-carboline-3-carboxylic-acid-ethylester is obtained.

reactant | 6-(3-hydroxy-1-propinyl)-beta-carboline-3-carboxylic-acid-ethylester | 78 mg | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1)C#CCO | C17H14N2O3
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
product | 6-(3-chloro-1-propinyl)-beta-carboline-3-carboxylic-acid-ethylester | 40 mg | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1)C#CCCl | C17H13ClN2O2
